* Z:\UNC\2022\analogElectronics3\lab1\acopleLC.asc
L1 N005 0 532n Rpar=16k
C1 N005 N007 120p
C2 N007 0 390p
C3 N005 N008 1200p
C4 N008 0 100p
R1 N008 0 1k
R2 N007 N006 50
V1 N006 0 AC 1
C5 N007 0 47p
C6 N005 N008 220p
R3 N002 N001 1
C7 N002 0 1
L2 N002 0 1
R4 N002 0 1
R5 N002 0 1
R6 N004 N003 1
C8 N004 0 1
L3 N004 0 1
R7 N004 0 1
R8 N004 0 1
.ac dec 100 10Meg 26Meg
* ra
* CT
* LT
* Rp
* vi
* vo
* RL
* ra'
* CT
* LT
* Rp
* vi
* vo
* RL
.backanno
.end
